* C:\Users\lucasp\Projects\CMOS-project\edge-triggered_PWM_generator.asc
* Generated by LTspice 26.0.1 for Windows.
I1 input 0 {Iref}
V1 VDD 0 3.3 Rser=0
R1 input 0 10G
V2 CLK 0 PULSE(0 3.3 1u 1n 1n 5u 10u) Rser=0
C_load output 0 2p
X§X1 N005 CLK edge_sig VDD 0 my_xor
X§X2 CLK N002 VDD 0 my_inverter
X§X3 N002 N003 VDD 0 my_inverter
X§X4 N003 N004 VDD 0 my_inverter
X§X5 N004 N005 VDD 0 my_inverter
C1 N002 0 20f
C2 N003 0 20f
C3 N004 0 20f
C4 N005 0 20f
X§X7 st_sig N006 VDD 0 my_inverter
X§X6 edge_sig input st_sig VDD 0 my_sawtooth_gen
X§X8 N007 edge_sig NC_01 weak_pwm VDD 0 my_sr_latch
X§X9 N006 N007 VDD 0 my_inverter
X§X10 N001 CLK NC_02 90deg_input_CLK VDD 0 180deg_input_CLK 270deg_input_CLK my_dll
V3 N001 0 PULSE(0 3.3 0.1u 1n 1n 100m 100m)

* block symbol definitions
.subckt my_xor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=1u
M2 OUT A N003 VSS NMOS_SME l=0.35u w=0.4u
X§U1 A NOT_A VDD VSS my_inverter
X§U2 B NOT_B VDD VSS my_inverter
M3 N001 NOT_B OUT VDD PMOS_SME l=0.35u w=1u
M4 VDD B N002 VDD PMOS_SME l=0.35u w=1u
M5 N002 NOT_A OUT VDD PMOS_SME l=0.35u w=1u
M6 N003 B VSS VSS NMOS_SME l=0.35u w=0.4u
M7 OUT NOT_A N004 VSS NMOS_SME l=0.35u w=0.4u
M8 N004 NOT_B VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_xor

.subckt my_inverter IN OUT VDD VSS
M3 VDD IN OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT IN VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_inverter

.subckt my_sawtooth_gen IN IREF OUT VDD VSS
M1 VDD IREF OUT VDD PMOS_SME l=2u w=0.4u
C1 OUT VSS 272.7f
M2 OUT IN VSS VSS NMOS_SME l=0.35u w=1.8u
M3 VDD IREF IREF VDD PMOS_SME l=2u w=4u
.inc library.mod
.ends my_sawtooth_gen

.subckt my_sr_latch R S NOT_Q Q VDD VSS
X§X1 S Q NOT_Q VDD VSS my_nor
X§X2 NOT_Q R Q VDD VSS my_nor
.inc library.mod
.ends my_sr_latch

.subckt my_dll _RESET CLK CP_IREF 90degCLK VDD VSS 180degCLK 270degCLK
X§X1 feedback_clk CLK down up VDD VSS _RESET my_pfd
C1 vctrl VSS 4p
X§X3 down N001 up vctrl VDD VSS my_cp
M1 vctrl rst_h VSS VSS NMOS_SME l=0.35u w=0.4u
X§X2 _RESET rst_h VDD VSS my_inverter
I1 VSS N001 1µ
X§X4 CLK vctrl 180clk 270clk 90clk feedback_clk VDD VSS my_vcdl
X§X6 90clk 90degCLK VDD VSS my_schmitt_trigger
X§X7 180clk 180degCLK VDD VSS my_schmitt_trigger
X§X8 270clk 270degCLK VDD VSS my_schmitt_trigger
X§X9 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 DFRRLHDX1
.inc library.mod
.ends my_dll

.subckt my_nor A B OUT VDD VSS
M1 VDD A N001 VDD PMOS_SME l=0.35u w=0.4u
M2 N001 B OUT VDD PMOS_SME l=0.35u w=0.4u
M3 OUT B VSS VSS NMOS_SME l=0.35u w=0.4u
M4 OUT A VSS VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nor

.subckt my_pfd FDBCK REF DOWN UP VDD VSS _RESET
X§X1 VDD REF N001 NC_01 UP VDD VSS DFRRLHDX1
X§X2 VDD FDBCK N001 NC_02 DOWN VDD VSS DFRRLHDX1
X§X3 UP DOWN reset VDD VSS my_nand
X§X4 _RESET reset N001 VDD VSS my_and
.inc library.mod
.ends my_pfd

.subckt my_cp DOWN IREF UP OUT VDD VSS
M1 VDD N001 N002 VDD PMOS_SME l=20u w=0.8u
M2 OUT DOWN N004 VSS NMOS_SME l=0.35u w=0.4u
M3 N002 N003 OUT VDD PMOS_SME l=0.35u w=0.4u
M4 N004 IREF VSS VSS NMOS_SME l=20u w=0.4u
M5 VDD N001 N001 VDD PMOS_SME l=2u w=4u
M6 N001 IREF VSS VSS NMOS_SME l=2u w=2u
M7 IREF IREF VSS VSS NMOS_SME l=2u w=2u
X§X1 UP N003 VDD VSS my_inverter
.inc library.mod
.ends my_cp

.subckt my_vcdl REF_CLK V_CTRL 180_CLK 270_CLK 90_CLK OUT_CLK VDD VSS
M9 VDD VBP VBP VDD PMOS_SME l=5u w=0.4u
M10 VBP V_CTRL VSS VSS NMOS_SME l=5u w=0.4u
X§X1 REF_CLK N001 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X2 90_CLK N003 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X3 180_CLK N005 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X4 270_CLK N007 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X5 N001 N002 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X6 N003 N004 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X7 N005 N006 VDD VSS VBP V_CTRL my_current_starved_inverter
X§X8 N007 N008 VDD VSS VBP V_CTRL my_current_starved_inverter
M1 N_REF N011 VSS VSS NMOS_SME l=2u w=4u
M2 N_REF N_REF VSS VSS NMOS_SME l=2u w=1u
M3 N010 N_REF VSS VSS NMOS_SME l=2u w=1u
M5 VDD N_REF N_REF VDD PMOS_SME l=2u w=0.4u
M6 VDD N_REF N009 VDD PMOS_SME l=2u w=2u
X§X9 N002 90_CLK VDD VSS my_schmitt_trigger
X§X10 N004 180_CLK VDD VSS my_schmitt_trigger
X§X11 N006 270_CLK VDD VSS my_schmitt_trigger
X§X12 N008 OUT_CLK VDD VSS my_schmitt_trigger
.inc library.mod
.ends my_vcdl

.subckt my_schmitt_trigger IN OUT VDD VSS
M1 VDD IN N001 VDD PMOS_SME l=0.35u w=2u
M2 n_inv IN N002 VSS NMOS_SME l=0.35u w=1u
M3 N001 IN n_inv VDD PMOS_SME l=0.35u w=2u
M4 N002 IN VSS VSS NMOS_SME l=0.35u w=1u
M5 VSS n_inv N001 VDD PMOS_SME l=0.35u w=0.4u
M6 N002 n_inv VDD VSS NMOS_SME l=0.35u w=0.4u
X§X1 n_inv OUT VDD VSS my_inverter
.inc library.mod
.ends my_schmitt_trigger

.subckt DFRRLHDX1 D C RN QN Q VDD VSS
M1 vdd D N001 vdd PMOS_SME l=350n w=1u
M2 N001 CI MQIB vdd PMOS_SME l=350n w=1u
M3 MQIB CIB N005 vss NMOS_SME l=350n w=700n
M4 N005 D N010 vss NMOS_SME l=350n w=700n
M5 vdd MQI N002 vdd PMOS_SME l=350n w=500n
M6 N002 CIB MQIB vdd PMOS_SME l=350n w=500n
M7 MQIB CI N006 vss NMOS_SME l=350n w=500n
M8 N006 MQI N010 vss NMOS_SME l=350n w=500n
M9 N010 RN vss vss NMOS_SME l=350n w=700n
M10 vdd RN MQIB vdd PMOS_SME l=350n w=1u
M11 vdd MQIB MQI vdd PMOS_SME l=350n w=1u
M12 MQI MQIB vss vss NMOS_SME l=350n w=700n
M13 vdd MQI N003 vdd PMOS_SME l=350n w=900n
M14 N003 CIB SQIB vdd PMOS_SME l=350n w=900n
M15 SQIB CI N007 vss NMOS_SME l=350n w=700n
M16 N007 MQI N009 vss NMOS_SME l=350n w=700n
M17 vdd SQI N004 vdd PMOS_SME l=350n w=500n
M18 N004 CI SQIB vdd PMOS_SME l=350n w=500n
M19 SQIB CIB N008 vss NMOS_SME l=350n w=500n
M20 N008 SQI N011 vss NMOS_SME l=350n w=500n
M21 N011 RN vss vss NMOS_SME l=350n w=550n
M22 vdd RN SQIB vdd PMOS_SME l=350n w=1u
M23 vdd SQIB SQI vdd PMOS_SME l=350n w=1u
M24 SQI SQIB vss vss NMOS_SME l=350n w=700n
M25 N009 RN vss vss NMOS_SME l=350n w=700n
M26 vdd C CIB vdd PMOS_SME l=350n w=1u
M27 CIB C vss vss NMOS_SME l=350n w=700n
M28 vdd CIB CI vdd PMOS_SME l=350n w=1u
M29 CI CIB vss vss NMOS_SME l=350n w=700n
M32 vdd SQIB Q vdd PMOS_SME l=350n w=1u
M33 Q SQIB vss vss NMOS_SME l=350n w=700n
M34 vdd SQI QN vdd PMOS_SME l=350n w=1u
M35 QN SQI vss vss NMOS_SME l=350n w=700n
.ends DFRRLHDX1

.subckt my_nand A B OUT VDD VSS
M1 N001 B VSS VSS NMOS_SME l=0.35u w=0.4u
M2 VDD A OUT VDD PMOS_SME l=0.35u w=0.4u
M3 VDD B OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT A N001 VSS NMOS_SME l=0.35u w=0.4u
.inc library.mod
.ends my_nand

.subckt my_and A B OUT VDD VSS
X§X1 A B N001 VDD VSS my_nand
X§X2 N001 OUT VDD VSS my_inverter
.inc library.mod
.ends my_and

.subckt my_current_starved_inverter IN OUT VDD VSS VBP VBN
M3 N002 IN OUT VDD PMOS_SME l=0.35u w=1u
M4 OUT IN N003 VSS NMOS_SME l=0.35u w=1u
M1 N001 VSS N002 VDD PMOS_SME l=2u w=2u
M2 N003 VDD N004 VSS NMOS_SME l=2u w=0.4u
M5 N004 VBN VSS VSS NMOS_SME l=2u w=0.4u
M6 VDD VBP N001 VDD PMOS_SME l=2u w=2u
.inc library.mod
.ends my_current_starved_inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
.param Iref 5uA
.inc library.mod
.tran 0 500u 0 20n
* Edge-triggered Pulse-Width Modulation (PWM) generator
* rise/fall time (10% -> 90%)\nshould be below 10 ns
* Sweep Iref in {1uA, 3uA, 5uA, 7uA, 9uA}
* Explain which electrical parameters define the output pulse-width
* 100kHz input clock
* Lucas Placentino 2026
* 1. edge detector (both rising and falling)
* 2. current-controlled sawtooth signal generator, thresholded, then through an S-R latch => weak PWM signal
* SR latch
* 3. buffer chain...
* Input clock (100kHz)
* Perfect voltage \nsource (3.3V)
* Capacitive load at output (2pF)
* Input reference \ncurrent (1 to 9uA)
* 90° phase shift based on delay-locked loop (DLL)
* custom\nDLL
* EXTRA FEATURES
* TODO: REMOVE
* use the inverter's\n1.65V threshold
.backanno
.end
